US05932601
A solution of isopropyl 4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]butanoate (100 g) in toluene (30 ml)-N,N-dimethylformamide (DMF) (30 ml) was added dropwise, at 100° C., to a mixture of diisopropyl oxalate (84.3 g), sodium hydride (60% oil, 11.6 g) and toluene (300 ml)-N,N-dimethylformamide (DMF) (30 ml). The mixture was stirred for one hour at the same temperature, which was distributed into ice-water-2N HCl and ethyl acetate. The ethyl acetate layer separated was washed with water, dried (MgSO4) and then concentrated. The concentrate was dissolved in dimethyl sulfoxide (DMSO) (400 ml)-water (40 ml), to which was added sodium chloride (14.1 g). The mixture was stirred for 10 hours at 120° C. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated. The concentrate was dissolved in tetrahydrofuran (100 ml)-isopropanol (200 ml), to which was added portionwise sodium borohydride (NaBH4) (1.83 g) under ice-cooling. The reaction mixture was stirred for 90 minutes at 0° C., which was poured into ice-water and acidified with 2N HCl, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:2), was obtained isopropyl (±)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-hydroxypentanoate (35.1 g, 33%), which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.75-76° C.

reactant | isopropyl 4-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]butanoate | 100 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCCC(=O)OC(C)C)OC)C | C23H27NO6
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | diisopropyl oxalate | 84.3 g | C(C(=O)OC(C)C)(=O)OC(C)C | C8H14O4
reactant | sodium hydride | 11.6 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | isopropyl (±)-5-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxyphenyl]-2-hydroxypentanoate | 35.1 g, 33% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCCC(C(=O)OC(C)C)O)OC)C | C24H29NO7
